US09062076B2
To a stirred solution of 3,4-dihydroquinoxalin-2(1H)-one (142 mg, 0.96 mmol) and triethylamine (0.16 mL, 1.14 mmol) in anhydrous THF (15 mL) at 0° C. was added a solution of (E)-3-(3,4-dimethoxyphenyl)acryloyl chloride in THF (2 mL) dropwise. The reaction mixture was allowed to warm to room temperature and stirred for 2 hours. The reaction was quenched by addition of 1N hydrochloric acid, and extracted with DCM. The combined organic phases were washed with brine, dried over sodium sulfate and concentrated under reduced pressure to afford the crude product which was purified by flash chromatography (hexane-EtOAc, 25:10) to give (E)-4-(3-(3,4-dimethoxyphenyl)acryloyl)-3,4-dihydroquinoxalin-2(1H)-one (160 mg, 47%). 1H-NMR (400 MHz, CDCl3) δ 3.86 (s, 3H), 3.90 (s, 3H), 4.63 (br s, 2H), 6.71 (d, J=15.2 Hz, 1H), 6.85 (d, J=8.4 Hz, 1H), 6.94 (d, J=2.0 Hz, 1H), 7.02 (dd, J=7.6, 1.2 Hz, 1H), 7.07-7.13 (m, 2H), 7.22 (dd, J=7.6, 1.2 Hz, 1H), 7.28 (br d, J=8.0 Hz, 1H), 7.76 (d, J=15.6 Hz, 1H), 8.89 (s, 1H); LC-MS (ES-API); rt 8.14 min; m/z calculated for C19H18N2O4[M+H]+ 339.1, found 339.0.

reactant | 3,4-dihydroquinoxalin-2(1H)-one | 0.96 mmol, 142 mg | N1C(CNC2=CC=CC=C12)=O | C8H8N2O
reactant | triethylamine | 1.14 mmol, 0.16 mL | C(C)N(CC)CC | C6H15N
reactant | (E)-3-(3,4-dimethoxyphenyl)acryloyl chloride | COC=1C=C(C=CC1OC)/C=C/C(=O)Cl | C11H11ClO3
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (E)-4-(3-(3,4-dimethoxyphenyl)acryloyl)-3,4-dihydroquinoxalin-2(1H)-one | 160 mg, 47% | COC=1C=C(C=CC1OC)/C=C/C(=O)N1CC(NC2=CC=CC=C12)=O | C19H18N2O4
